datasets/10k__Tet_Int.csv
SMILES Labelled
"[O-:21][C:20]1([H])[O:10]C(C)C(O)=C1[H]>>[O-:10]C(C)/C(O)=C([C:20]([H])=[O:21])/[H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C7=CC=CC=C7)C(CC)[O]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(CC)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[Cl:21])C1=CC=CC=C1)[H]>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)[H].[Cl-:21] 10=20;20,21=21"
"[O-:21][C:20]1(OC)C([H])C([H])C(C)C([H])[O:10]1>>[O-:10]C([H])C(C)C([H])C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C(CC)[NH]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(CC)[NH][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"[H][NH+:10](C([H])C([H])C(CC)[O]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(CC)[O][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[NH]C(C7=CC=CC=C7)C([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C([H])[O]2.CC[NH:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)[H]>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)[H].[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[Na][O:21]CC.[C:20](=[O:10])(OCC)OC1=CC=CC=C1>>[Na][O+:21]([C:20]([O-:10])(OCC)OC1=CC=CC=C1)CC 21=20;20,10=10"
"[O-:21][C:20]1(C)C(C)C([H])C([H])C(CC)[NH+:10]1(C)>>[NH:10](C)C(CC)C([H])C([H])C(C)[C:20](C)=[O:21] 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)[H])[H]>>CCCCCCN([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)[H])[O-:10])[H] 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])C(CC)[O]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(CC)[O][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"[NH:10](C)C(C=CC=C1)=C1C(C)C([C:20](C)=[O:21])[H]>>[O-:21][C:20]2(C)C(C(C)C3=C([NH+:10]2(C))C=CC=C3)[H] 10=20;20,21=21"
"[H][NH:10]C(C)C([H])C(C8=CC=CC=C8)[NH][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH][H])[O]CC.[Cl-]>>[Cl-].[H][O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH][H])[O]CC 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C(C)[CH](C)[NH]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C([H])[CH]([H])[O]1 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C([H])[O][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C([H])[O]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
"[H][NH+:10](C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C(CC)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)[NH]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)[NH][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][O:10]C(C)C(C)[O][C:20]([O]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)[O]1)[C:20]1([NH:21][H])[O]C 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1C)C)[H].[O-:21][H]>>CCC1C(C(O[C:20](N1C)([O-:10])[O:21][H])C)[H] 21=20;20,10=10"
"[H][NH:10]C([H])C(C)C([H])[NH][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)C([H])[NH]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"[O:10]([K])C(C)/C([H])=C([H])\C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C([H])=C([H])C(C)[O+:10]1([K]) 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(C7=CC=CC=C7)C([H])[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C([H])[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][O:10]C([H])C(CC)[O][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(CC)[O]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"[O-:21][C:20]1([H])C(C)C(O)C([H])C(CCC)[O+:10]1([Na])>>[O:10]([Na])C(CCC)C([H])C(O)C(C)[C:20]([H])=[O:21] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[O]C(C7=CC=CC=C7)C(CC)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[NH]2.CC[O:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([NH:21]CC)([NH][H])[NH]C.[Cl-]>>[Cl-].CC[O:10][H].CC[NH+:21]=[C:20]([NH][H])[NH]C 21=20;20,10=10"
"[OH:10]C(C)C([H])/C(C)=C(C)\[C:20](OCC)=[OH+:21]>>[OH:21][C:20]1(OCC)C(C)=C(C)C([H])C(C)[OH+:10]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH]C(CC)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH]C(CC)C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CC)CCCCCC)C1=CC=CC=C1)[O-:10])CCCCCC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CC)CCCCCC)C1=CC=CC=C1)CCCCCC 10=20;20,21=21"
"CCN([C:20]([O-:10])([O:21]N1C(=O)CCC1=O)[H])[H]>>CCN([C:20](=[O:10])[H])[H].C1CC(=O)N(C1=O)[O-:21] 10=20;20,21=21"
"[CH:20]([NH2:10])([I:21])CC>>[CH:20](=[NH2+:10])CC.[I-:21] 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
